US08859592B2
A solution of 4-formyl-1-methyl-1H-indazole-7-carboxylic acid methyl ester (1.4 g) in isopropyl alcohol (30 ml) and water (20 ml) was treated with hydroxylamine hydrochloride (0.62 g) and sodium acetate (0.72 g) and stirred for 4 h. Isopropyl alcohol was removed and the remaining mixture was extracted with ethyl acetate (2×50 ml). The combined organic layers were dried over sodium sulfate and concentrated to give 4-(hydroxyimino-methyl-1-methyl-1H-indazole-7-carboxylic acid methyl ester (1.5 g). 1H-NMR (400 MHz, DMSO): 10.1 (s, 1H), 8.5 (s, 1H), 8.4 (s, 1H), 7.8 (d, 1H), 7.1 (d, 1H), 4.20 (s, 3H), 4.00 (s, 3H).

reactant | 4-formyl-1-methyl-1H-indazole-7-carboxylic acid methyl ester | 1.4 g | COC(=O)C=1C=CC(=C2C=NN(C12)C)C=O | C11H10N2O3
reactant | hydroxylamine hydrochloride | 0.62 g | Cl.NO
reactant | sodium acetate | 0.72 g | C(C)(=O)[O-].[Na+]
solvent | isopropyl alcohol | 30 ml | C(C)(C)O | C3H8O
solvent | water | 20 ml | O | H2O
product | hydroxyimino-methyl-1-methyl-1H-indazole-7-carboxylic acid methyl ester | 1.5 g | COC(=O)C=1C=CC(C2=C(NN(C12)C)C)=NO | C11H13N3O3
